US05463128
Synthesis of 1,4-bis(4,4-diphenyl-1,3butadienyl)benzene (Comparative Compound 41) and the application example thereof
In 100 ml of DMF were dissolved 5.53 g of 3,3-diphenylacrolein and 5.0 g of p-xylene-α,α'-diylbis(diethyl phosphonate), and 3.87 g of potassium tert-butoxide was added to the solution at room temperature. Thereafter, the reaction was carried out for 4 hours at room temperature with stirring and the reaction mixture was poured into 100 ml of ice-water with stirring. Then, precipitates thus deposited were collected by filtration, dissolved in benzene, and separated and purified by silica gel column chromatography (eluent: benzene). After distilling off benzene from the effluent, the residue was recrystallized from ethyl acetate to provide 1.00 g (yield 15.6%) of yellow crystals having a melting point of from 237.0° C. to 249.5° C.

reactant | 3,3-diphenylacrolein | 5.53 g | C1(=CC=CC=C1)C(=CC=O)C1=CC=CC=C1 | C15H12O
reactant | potassium tert-butoxide | 3.87 g | CC(C)([O-])C.[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1,4-bis(4,4-diphenyl-1,3butadienyl)benzene | 1.00 g, yield 15.6% | C1(=CC=CC=C1)C(=CC=CC1=CC=C(C=C1)C=CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C38H30
